US07994211B2
e. (1S,2R,4S,7S)-7-{[9-(tert-Butyldimethylsilanyloxy)nonyl]methylamino}bicyclo[2.2.1]-heptan-2-ol
To a solution of (1S,4S,7S)-7-{[9-(tert-butyldimethylsilanyloxy)nonyl]methylamino}-bicyclo[2.2.1]heptan-2-one (4.11 g, 10.4 mmol max) in dry THF (41 mL) at −5° C. under a nitrogen atmosphere was added lithium tri-tert-butoxyaluminum hydride (3.44 g, 13.5 mmol). After 1.5 h at −5° C. more lithium tri-tert-butoxyaluminum hydride (2.64 g, 10.4 mmol) was added. After 1 h at −5° C. the reaction was quenched with satd ammonium chloride solution (aq) and partitioned between ethyl acetate and water. The solids were removed by filtration and washed with ethyl acetate. The phases were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with satd NaHCO3 (aq), brine, dried (Na2SO4), filtered, and concentrated to dryness to afford a turbid yellow oil. The crude product was purified by column chromatography over silica gel using a gradient of 7.5-10% MeOH/DCM as eluent. After evaporation of the volatiles a light yellow/brown viscous oil was obtained.

reactant | (1S,4S,7S)-7-{[9-(tert-butyldimethylsilanyloxy)nonyl]methylamino}-bicyclo[2.2.1]heptan-2-one | 10.4 mmol, 4.11 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCN([C@@H]1[C@H]2C(C[C@@H]1CC2)=O)C | C23H45NO2Si
reactant | lithium tri-tert-butoxyaluminum hydride | 13.5 mmol, 3.44 g | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | lithium tri-tert-butoxyaluminum hydride | 10.4 mmol, 2.64 g | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | THF | 41 mL | C1CCOC1 | C4H8O
product | (1S,2R,4S,7S)-7-{[9-(tert-Butyldimethylsilanyloxy)nonyl]methylamino}bicyclo[2.2.1]-heptan-2-ol | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCN([C@@H]1[C@H]2[C@@H](C[C@@H]1CC2)O)C | C23H47NO2Si
